### PR TITLE
[Merged by Bors] - feat(NumberTheory/SumPrimeReciprocals): the sum of 1/p over primes p diverges

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds the fact that `∑ p prime, 1/p` diverges. We follow the elementary proof due to Erdős given in "THE BOOK".

See [here](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Sum.20over.201.2Fp.20diverges/near/409835682) on Zulip.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/SumPrimeReciprocals.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
...
+We show that the sum of `1/p`, where `p` runs through the prime numbers, diverges.
+We follow the elementary proof by Erdős that is reproduced in "Proofs from THE BOOK".
+There are two versions of the main result: `not_summable_one_div_on_primes`, which
+expresses the sum as a sub-sum of the harmonic series, and `Nat.Primes.not_summable_one_div`,
+which writes it as a sum over `Nat.Primes`. We also show that the sum of `p^r` for `r : ℝ`
+converges if and only if `r < -1`; see `Nat.Primes.summable_rpow`.
+
+## References
+
+See the sixth proof for the infinity of of primes in Chapter 1 of [aigner1999proofs].
```
Comment (alexjbest) [inline Mathlib/NumberTheory/SumPrimeReciprocals.lean:21]:
```suggestion
See the sixth proof for the infinity of primes in Chapter 1 of [aigner1999proofs].
```

File: Mathlib/NumberTheory/SumPrimeReciprocals.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+The proof is due to Erdős.
+-/
+
+/-- The cardinality of the set of `k`-rough numbers `≤ N` is bounded by `N` times the sum
+of `1/p` over the primes `k ≤ p ≤ N`. -/
+-- This needs `Mathlib.Data.IsROrC.Basic`, so we put it here
+-- instead of in `Mathlib.NumberTheroy.SmoothNumbers`.
```
Comment (alexjbest) [inline Mathlib/NumberTheory/SumPrimeReciprocals.lean:28]:
```suggestion
-- instead of in `Mathlib.NumberTheory.SmoothNumbers`.
```

File: Mathlib/NumberTheory/SumPrimeReciprocals.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+    (roughNumbersUpTo N k).card ≤
+      N * (N.succ.primesBelow \ k.primesBelow).sum (fun p ↦ (1 : ℝ) / p) := by
+  simp_rw [Finset.mul_sum, mul_one_div]
+  exact (Nat.cast_le.mpr <| roughNumbersUpTo_card_le N k).trans <|
+    (cast_sum (β := ℝ) ..) ▸ Finset.sum_le_sum fun n _ ↦ cast_div_le
+
+open Set Nat BigOperators
+
+/-- The sum over primes `k ≤ p ≤ 4^(π(k-1)+1)` over `1/p` (as a real number) is at least `1/2`. -/
+lemma sum_primes_ge_one_div_ge_half (k : ℕ) :
```
Comment (alexjbest) [inline Mathlib/NumberTheory/SumPrimeReciprocals.lean:39]: Can you make this `half_le` instead of `ge_half`? seems `one_half` might be the more standard name

File: Mathlib/NumberTheory/SumPrimeReciprocals.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+    ∑ p in (4 ^ (k.primesBelow.card + 1)).succ.primesBelow \ k.primesBelow,
+      (1 / p : ℝ) ≥ 1 / 2 := by
+  set m : ℕ := 2 ^ k.primesBelow.card
+  set N₀ : ℕ := 2 * m ^ 2 with hN₀
+  let S : ℝ := ((2 * N₀).succ.primesBelow \ k.primesBelow).sum (fun p ↦ (1 / p : ℝ))
+  suffices : 2 * N₀ ≤ m * (2 * N₀).sqrt + 2 * N₀ * S
+  · rw [ge_iff_le]
+    rw [hN₀, ← mul_assoc, ← pow_two 2, ← mul_pow, sqrt_eq', ← sub_le_iff_le_add'] at this
+    push_cast at this
+    ring_nf at this
```
Comment (alexjbest) [inline Mathlib/NumberTheory/SumPrimeReciprocals.lean:49]: This seems quite annoying to maintain as the ring_nf output could randomly change. Can you spell out the equality you want
like
```
rw [show a * b = b * a by ring] at this
```

File: Mathlib/NumberTheory/SumPrimeReciprocals.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SumPrimeReciprocals.lean:39]: Yes (--> `one_half_le_sum_primes_ge_one_div`). I thought the `≥` version was a more natural statement, but using `≤` leads to some (minor) simplification.

File: Mathlib/NumberTheory/SumPrimeReciprocals.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/SumPrimeReciprocals.lean]: OK; changed the proof.

**Comment by alexjbest** [comment]
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
